US07645755B2
a) 4,4,5,5-Tetramethyl-2-(2-methyl-thiophen-3-yl)-[1,3,2]dioxaborolane
Using a procedure similar to Example 4, step (b), 3-bromo-4-methylthiophene (571 mg, 3.2 mmol) was treated with n-BuLi (1.41 mL, 2.5M/hexanes) and then allowed to react with 2-isopropoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (775 μL, 3.8 mmol) to afford 189 mg (26%) of the title compound as a colorless oil. 1H-NMR (CDCl3; 400 MHz): δ 1.32 (s, 12H), 2.42 (s, 3H), 6.90-6.91 (m, 1H), 7.84 (d, 1H, J=2.9 Hz).

reactant | 3-bromo-4-methylthiophene | 3.2 mmol, 571 mg | BrC1=CSC=C1C | C5H5BrS
reactant | n-BuLi | 2.5M, 1.41 mL | [Li]CCCC
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 3.8 mmol, 775 μL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
product | 4,4,5,5-Tetramethyl-2-(2-methyl-thiophen-3-yl)-[1,3,2]dioxaborolane | 189 mg, 26% | CC1(OB(OC1(C)C)C1=C(SC=C1)C)C | C11H17BO2S
